US09056859B2
To a solution of methyl (2-hydroxyphenyl)acetate (14 g, 84.3 mmol) in 100 mL of DCM was added diisopropyl-amine (1.7 g, 16.8 mmol) and NBS (15 g, 84.2 mmol) at 0° C. The mixture was stirred at 0° C. for 1 h. The reaction was poured into 1N HCl, extracted with DCM, and concentrated to give crude methyl (3-bromo-2-hydroxyphenyl)acetate. Step C: methyl (3-bromo-2-methoxyphenyl)acetate

reactant | methyl (2-hydroxyphenyl)acetate | 84.3 mmol, 14 g | OC1=C(C=CC=C1)CC(=O)OC | C9H10O3
reactant | diisopropyl-amine | 16.8 mmol, 1.7 g | C(C)(C)NC(C)C | C6H15N
reactant | NBS | 84.2 mmol, 15 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | HCl | 1N | Cl | ClH
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | methyl (3-bromo-2-hydroxyphenyl)acetate | BrC=1C(=C(C=CC1)CC(=O)OC)O | C9H9BrO3
